US08859602B2
b) 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-morpholin-4-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide
The title compound was prepared by the procedure of Example 21, step (b) using 4-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-formyl-tetrahydro-pyran-4-yl)-phenyl]-amide (as prepared in the previous step, 40.0 mg, 0.0921 mmol), morpholine (13 μL, 0.14 mmol) and sodium triacetoxyborohydride (5.2 mg, 0.14 mmol). Silica gel chromatography (10-20% EtOAc/DCM then 1-2% MeOH/DCM) afforded the title compound (20 mg, 43%) as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 12.61 (s, 1H), 9.70 (s, 1H), 8.33 (d, 1H, J=8.6 Hz), 7.75 (s, 1H), 7.28 (dd, 1H, J=8.6, 2.3 Hz), 7.16 (d, 1H, J=2.3 Hz), 5.78 (m, 1H), 3.79 (m, 2H), 3.59 (m, 2H), 3.50-3.62 (m, 4H), 2.45 (s, 2H), 2.25-2.31 (m, 2H), 2.11-2.22 (m, 8H), 1.93 (m, 2H), 1.61 (t, 2H, J=6.3 Hz), 1.13 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C29H37N5O3, 504.3 (M+H). found 504.3.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-formyl-tetrahydro-pyran-4-yl)-phenyl]-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)C=O)NC(=O)C=1NC=C(N1)C#N)C | C25H28N4O3
reactant | morpholine | 0.14 mmol, 13 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.14 mmol, 5.2 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-morpholin-4-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide | 20 mg, 43% | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)CN1CCOCC1)NC(=O)C=1NC=C(N1)C#N)C | C29H37N5O3
